US07595405B2
To a solution of 5-Amino-4′-methyl-biphenyl-3-carboxylic acid methyl ester (10 g, 41.5 mmol) and NaN3 (4.99 g, 76.76 mmol) in AcOH (80 mL) was added HC(OEt)3 (29.5 g, 199.2 mmol) at room temperature, then heated to reflux for 4 h. The solvent was removed in vacuo and the residue was purified by silica-gel chromatography to give 4′-Methyl-5-tetrazol-1-yl-biphenyl-3-carboxylic acid methyl ester as light yellow solid (11.22 g, 92%). MS (M+H)=295.

reactant | 5-Amino-4′-methyl-biphenyl-3-carboxylic acid methyl ester | 41.5 mmol, 10 g | COC(=O)C=1C=C(C=C(C1)N)C1=CC=C(C=C1)C | C15H15NO2
reactant | NaN3 | 76.76 mmol, 4.99 g | [N-]=[N+]=[N-].[Na+]
reactant | HC(OEt)3 | 199.2 mmol, 29.5 g | C(OCC)(OCC)OCC | C7H16O3
solvent | AcOH | 80 mL | CC(=O)O | C2H4O2
product | 4′-Methyl-5-tetrazol-1-yl-biphenyl-3-carboxylic acid methyl ester | 11.22 g, 92% | COC(=O)C=1C=C(C=C(C1)N1N=NN=C1)C1=CC=C(C=C1)C | C16H14N4O2
